US04751163
(2) Synthesis of 3-(p-diethylaminophenyl)-3-phenylacrolein
After adding dropwise 3.9 g of phosphorus oxychloride to a solution of 2.2 g of dimethylformamide (DMF) and 50 ml of 1,2-dichloroethane at from 0° to 5° C., the mixture was stirred at that temperature for 30 minutes. Then, a solution of 5.2 g of 1-(p-diethylaminophenyl)-1-phenylethylene in 50 ml of 1,2-dichloroethane solution was added dropwise thereto at that temperature over 30 minutes, and the mixture was reacted from 5 hours at room temperature. Hydrolysis was conducted with an addition of 100 cc of water containing 10 g of sodium acetate. After separating and water-washing an organic layer, the solvent was distilled off to obtain 4.8 g of an oily substance which was subsequently separated and purified on silica gel column chromatography to obtain 3.3 g (yield: 57% (theory)) of an oily product.

reactant | phosphorus oxychloride | 3.9 g | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | dimethylformamide | 2.2 g | CN(C=O)C | C3H7NO
reactant | 1-(p-diethylaminophenyl)-1-phenylethylene | 5.2 g | C(C)N(C1=CC=C(C=C1)C(=C)C1=CC=CC=C1)CC | C18H21N
reactant | sodium acetate | C(C)(=O)[O-].[Na+]
solvent | 1,2-dichloroethane | 50 ml | ClCCCl | C2H4Cl2
solvent | 1,2-dichloroethane | 50 ml | ClCCCl | C2H4Cl2
solvent | water | 100 cc, 10 g | O | H2O
product | 3-(p-diethylaminophenyl)-3-phenylacrolein | yield: 57% | C(C)N(C1=CC=C(C=C1)C(=CC=O)C1=CC=CC=C1)CC | C19H21NO
